US07605159B2
(i) N˜2˜-(tert-Butoxycarbonyl)-N˜1˜-[cyano(2-methoxyphenyl)methyl]-L-leucinamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.9 g) and 1-hydroxybenzotriazole hydrate (2.0 g) were added to a solution of 2-methoxyphenylamino acetonitrile (2.0 g) and N-tert-butoxycarbonyl L-leucine (2.5 g) in N,N-dimethylformamide (20 ml) at room temperature followed by N,N-diisopropylethylamine (5.3 ml) and stirred at room temperature overnight. The mixture was diluted with water, extracted into ethyl acetate and dried (MgSO4). The solvent was removed under vacuum to leave an oil which was subjected to column chromatography on silica eluting with isohexane/ethyl acetate 2:1 to give a colourless oil (3.7 g).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.9 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 2.0 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methoxyphenylamino acetonitrile | 2.0 g | COC(C#N)NC1=CC=CC=C1 | C9H10N2O
reactant | N-tert-butoxycarbonyl L-leucine | 2.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | N,N-diisopropylethylamine | 5.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isohexane ethyl acetate | CCCC(C)C.C(C)(=O)OCC
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N˜2˜-(tert-Butoxycarbonyl)-N˜1˜-[cyano(2-methoxyphenyl)methyl]-L-leucinamide | 3.7 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)NC(C1=C(C=CC=C1)OC)C#N | C20H29N3O4
